US06322775B1
1-ethyl-4,5-pyrazolinedione;
1-ethyl-3-methyl-4,5-pyrazolinedione; 1-ethyl-3-phenyl-4,5-pyrazolinedione; 1-ethyl-3-(4′-chlorophenyl)-4,5-pyrazolinedione; 1-ethyl-3-(3′-methoxyphenyl)-4,5-pyrazolinedione; 1-ethyl-3-(4′-methoxyphenyl)-4,5-pyrazolinedione; 1-ethyl-3-(3′-nitrophenyl)-4,5-pyrazolinedione; 1-ethyl-3-(4′-methylphenyl)-4,5-pyrazolinedione; 1-ethyl-3-(2′-furyl)-4,5-pyrazolinedione; 1-ethyl-3-(2′-thienyl)-4,5-pyrazolinedione; 1-ethyl-3-(5′-pyrazolyl)-4,5-pyrazolinedione; 1-ethyl-3-methoxy-4,5-pyrazolinedione; 1-ethyl-3-ethoxy-4,5-pyrazolinedione; 1-ethyl-3-dimethylamino-4,5-pyrazolinedione; 1-ethyl-3-diethylamino-4,5-pyrazolinedione; 1-ethyl-3-acetamido-4,5-pyrazolinedione; 1-ethyl-3-carboxy-4,5-pyrazolinedione; 1-ethyl-3-methoxycarbonyl-4,5-pyrazolinedione; 1-ethyl-3-ethoxycarbonyl-4,5-pyrazolinedione;

reactant | 1-ethyl-3-methyl-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)C | C6H10N2O2
reactant | 1-ethyl-3-phenyl-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)C1=CC=CC=C1 | C11H12N2O2
reactant | 1-ethyl-3-(4′-chlorophenyl)-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)C1=CC=C(C=C1)Cl | C11H11ClN2O2
reactant | 1-ethyl-3-(3′-methoxyphenyl)-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)C1=CC(=CC=C1)OC | C12H14N2O3
reactant | 1-ethyl-3-(4′-methoxyphenyl)-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)C1=CC=C(C=C1)OC | C12H14N2O3
reactant | 1-ethyl-3-(3′-nitrophenyl)-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C11H11N3O4
reactant | 1-ethyl-3-(4′-methylphenyl)-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)C1=CC=C(C=C1)C | C12H14N2O2
reactant | 1-ethyl-3-methoxy-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)OC | C6H10N2O3
reactant | 1-ethyl-3-ethoxy-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)OCC | C7H12N2O3
reactant | 1-ethyl-3-dimethylamino-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)N(C)C | C7H13N3O2
reactant | 1-ethyl-3-diethylamino-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)N(CC)CC | C9H17N3O2
reactant | 1-ethyl-3-acetamido-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)NC(C)=O | C7H11N3O3
reactant | 1-ethyl-3-carboxy-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)C(=O)O | C6H8N2O4
reactant | 1-ethyl-3-methoxycarbonyl-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)C(=O)OC | C7H10N2O4
reactant | 1-ethyl-3-ethoxycarbonyl-4,5-pyrazolinedione | C(C)N1NC(C(C1=O)=O)C(=O)OCC | C8H12N2O4
product | 1-ethyl-4,5-pyrazolinedione | C(C)N1NCC(C1=O)=O | C5H8N2O2
